US06953787B2
8-Chloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution of N-trifluoroacetyl-8-chloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine (65 mg, 0.22 mmol) in methanol (2 mL) was treated with 15% aqueous NaOH (2 mL), and stirred for 3.5 hours at 60 C. The product mixture was concentrated, extracted 3 times with CH2Cl2 (5 mL), dried with Na2SO4 and concentrated to give 35 mg of a clear oil. 1H NMR (400 MHz, CDCl3) d 7.11 (s, 1 H), 7.05 (d, J=8 Hz, 1 H), 6.98 (d, J=8 Hz, 1 H), 3.1−2.9 (m, 6 H), 2.71 (m, 1 H), 2.68 (bs, 1 H), 1.32 (d, J=8 Hz, 3 H). MS calculated for C11H14ClN+H: 196, observed: 196.

reactant | N-trifluoroacetyl-8-chloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.22 mmol, 65 mg | FC(C(=O)N1CCC2=C(C(C1)C)C=C(C=C2)Cl)(F)F | C13H13ClF3NO
reactant | NaOH | 2 mL | [OH-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | 8-Chloro-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 35 mg | ClC=1C=CC2=C(C(CNCC2)C)C1 | C11H14ClN
